US07378525B2
Preparation of 4-(4-Cyano-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester
4-(4-Fluoro-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester (970 mg, 2.35 mmol) was dissolved in DMSO (10 mL) and sodium cyanide (577 mg, 11.77 mmol) was added. The mixture was heated overnight at 100° C. An additional 5 equivalents of sodium cyanide (577 mg, 11.77 mmol) were added and the reaction was stirred overnight at 100° C. The reaction was cooled to room temperature and diluted with dichloromethane (100 mL). The mixture was charged to a separatory funnel and extracted three times with water, brine and then dried over MgSO4. Filtration and concentration in vacuo afforded a brown color foam that was triturated with EtOAc to afford a tan solid. Wt.: 550 mg (56%) 1H NMR (300 MHz, CDCl3) δ 7.87 (d, 1H), 7.48 (d, 1H), 4.52 (d, 1H), 3.93 (m, 2H), 3.30 (m, 1H), 3.07 (m, 4H), 2.73 (m, 2H), 1.80 (m, 6H), 1.37 (s, 9H), 1.30 (m, 2H); LC/MS m/z 418 (M−H)−.

reactant | 4-(4-Fluoro-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.35 mmol, 970 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)F | C20H29FN2O4S
reactant | sodium cyanide | 11.77 mmol, 577 mg | [C-]#N.[Na+]
reactant | sodium cyanide | 11.77 mmol, 577 mg, 5 equivalents | [C-]#N.[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(4-Cyano-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)C#N | C21H29N3O4S
